US05240976
A solution of dibenzylamine (40 g, 0.2 mol) and 2-butene-1,4-diol diacetate (105 g, 0.61 mol) dissolved in 150 ml of tetrahydrofuran (THF) is treated with tetrakis(triphenylphosphine)palladium (0) (1.0 g, 0.9 mmol) and stirred at room temperature overnight. The reaction mixture is concentrated in vacuo and the excess 2-butene-1,4-diol diacetate is removed by bulb-to-bulb distillation at 80°-90° C./1 mm. The residue is purified by eluting through a short plug of silica gel (1:1 ethyl acetate: hexanes). 1-Acetoxy-4-dibenzylamino-2-butene is obtained in a yield of 59.2 g (95%).

reactant | dibenzylamine | 0.2 mol, 40 g | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | 2-butene-1,4-diol diacetate | 0.61 mol, 105 g | C(C)(=O)OCC=CCOC(C)=O | C8H12O4
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 0.9 mmol, 1.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-Acetoxy-4-dibenzylamino-2-butene | C(C)(=O)OCC=CCN(CC1=CC=CC=C1)CC1=CC=CC=C1 | C20H23NO2
